US05866560
A solution of 34 g of (4,4,5,5,5-pentafluoropentyl)-vinyl sulfide in 74 ml of glacial acetic acid is mixed drop by drop with 59 ml of 30% hydrogen peroxide in such a way that the reaction temperature does not exceed 70° C. Then, it is stirred for one hour at a bath temperature of 70° C. Then, it is added to water, extracted three times with ethyl acetate, washed with sodium thiosulfate, water and common salt solution, dried on sodium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with hexane/ethyl acetate. 12.3 g of (4,4,5,5,5-pentafluoropentyl)-vinyl sulfone is obtained as an oil.

reactant | (4,4,5,5,5-pentafluoropentyl)-vinyl sulfide | 34 g | FC(CCCSC=C)(C(F)(F)F)F | C7H9F5S
reactant | hydrogen peroxide | 59 ml | OO | H2O2
reactant | water | O | H2O
reactant | acetic acid | 74 ml | C(C)(=O)O | C2H4O2
product | (4,4,5,5,5-pentafluoropentyl)-vinyl sulfone | 12.3 g | FC(CCCS(=O)(=O)C=C)(C(F)(F)F)F | C7H9F5O2S
